US04510149
1,2-dihydro-3-(1-imidazolyl)-6-methoxy-naphthalene was treated with a stoichiometric amount of hydrogen chloride, to give 1,2-dihydro-3-(1-imidazolyl)-6-methoxy-naphthalene hydrochloride.

reactant | 1,2-dihydro-3-(1-imidazolyl)-6-methoxy-naphthalene | N1(C=NC=C1)C=1CCC2=CC=C(C=C2C1)OC | C14H14N2O
reactant | hydrogen chloride | Cl | ClH
product | 1,2-dihydro-3-(1-imidazolyl)-6-methoxy-naphthalene hydrochloride | Cl.N1(C=NC=C1)C=1CCC2=CC=C(C=C2C1)OC | InChI=1S/C14H14N2O.ClH/c1-17-14-5-3-11-2-4-13(8-12(11)9-14)16-7-6-15-10-16;/h3,5-10H,2,4H2,1H3;1H
